US07977344B2
8-Bromo-2-[(2-methylpropyl)oxy]-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-Purin-6-amine
2-[(2-Methylpropyl)oxy]-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine (88 mg) was dissolved in glacial acetic acid (1.5 mL) before adding sodium acetate (355 mg). The above was then cooled in an ice-bath before bromine (0.2 mL) which was added gradually. The reaction mixture was warmed to room temperature before being heated to 70° C. (external temperature) for 4 hours. The reaction mixture was quenched with 10% (w/v) sodium thiosulphate solution (to a pale yellow colour with no further change) and then the pH was adjusted to 6-7 by the addition of 2M sodium hydroxide. This was then extracted into ethyl acetate (20 mL, 3 times). The organic layer was separated, combined and dried by passing through a hydrophobic frit. The organic layer was evaporated under reduced pressure and then azeotroped with toluene to give the title compound as a pale yellow solid (0.10 g). This material then used in the next stage without the need for purification

reactant | 2-[(2-Methylpropyl)oxy]-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine | 88 mg | CC(COC1=NC(=C2N=CN(C2=N1)CC1CCOCC1)N)C | C15H23N5O2
reactant | sodium acetate | 355 mg | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.2 mL | BrBr | Br2
solvent | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
product | 8-Bromo-2-[(2-methylpropyl)oxy]-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-Purin-6-amine | 0.10 g | BrC=1N(C2=NC(=NC(=C2N1)N)OCC(C)C)CC1CCOCC1 | C15H22BrN5O2
